US08017809B2
Bis(4,4′-(phenyl-2-pyridylmethoxyboryl)benzyl) ether
The entitled compound (34 mg) was obtained by allowing 59 mg of bis(4,4′-(phenylhydroxyboryl)benzyl) ether and 59 mg of 2-hydroxymethylpyridine to act in 0.7 mL of ethanol at room temperature.

reactant | bis(4,4′-(phenylhydroxyboryl)benzyl) ether | 59 mg | C1(=CC=CC=C1)B(O)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(O)C1=CC=CC=C1 | C26H24B2O3
reactant | 2-hydroxymethylpyridine | 59 mg | OCC1=NC=CC=C1 | C6H7NO
solvent | ethanol | 0.7 mL | C(C)O | C2H6O
product | Bis(4,4′-(phenyl-2-pyridylmethoxyboryl)benzyl) ether | C1(=CC=CC=C1)B(OCC1=NC=CC=C1)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(OCC1=NC=CC=C1)C1=CC=CC=C1 | C38H34B2N2O3
